US08729263B2
Step 4: tert-Butyl (3-((7-hydroxy-6-(6-(methyl(2,2,6,6-tetramethylpiperidin-4-yl)amino)pyridazin-3-yl)naphthalen-2-yl)oxy)propyl)carbamate
Pd/C (10% wt 80 mg, 0.075 mmol) was added to a EtOAc (5 mL)/MeOH (5 mL) solution of tert-butyl (3-((7-(benzyloxy)-6-(6-(methyl(2,2,6,6-tetramethylpiperidin-4-yl)amino)pyridazin-3-yl)naphthalen-2-yl)oxy)propyl)carbamate (492 mg, 0.752 mmol) at RT. The reaction mixture was evacuated and filled with H2 (2×) then stirred at RT under H2 (1 atm) for 16 h. The reaction mixture was filtered through celite washing with MeOH, wash then concentrated in vacuo to dryness affording a tan solid. The solid was dissolved in DCM then adsorbed onto a silica bound amine column (Si—NH2 column 10 g, Varian brand, Bond Elut NH2). The column was then washed with MeOH (150 mL) then the solvent was concentrated in vacuo affording a yellow oil. The oil was dissolved in Et2O then concentrated in vacuo affording the title compound as a beige solid (386 mg, 91% yield). MS (M+1)=564.3; 1H NMR (400 MHz, DMSO-d6) δ ppm 13.29 (br. s, 1H), 8.34 (s, 1H), 8.28 (d, J=10.10 Hz, 1H), 7.76 (d, J=9.09 Hz, 1H), 7.34 (d, J=10.11 Hz, 1H), 7.15 (s, 1H), 7.08 (d, J=2.53 Hz, 1H), 6.94 (dd, J=9.09, 2.53 Hz, 1H), 4.89-5.06 (m, 1H), 4.56 (s, 1H), 4.09 (t, J=6.32 Hz, 2H), 3.09-3.16 (m, 2H), 2.98 (s, 3H), 1.80-1.95 (m, 2H), 1.50-1.61 (m, 2H), 1.44 (t, J=12.38 Hz, 2H), 1.38 (s, 9H), 1.27 (s, 6H), 1.10 (s, 6H).

reactant | EtOAc | 5 mL | CCOC(=O)C | C4H8O2
reactant | MeOH | 5 mL | CO | CH4O
reactant | tert-butyl (3-((7-(benzyloxy)-6-(6-(methyl(2,2,6,6-tetramethylpiperidin-4-yl)amino)pyridazin-3-yl)naphthalen-2-yl)oxy)propyl)carbamate | 0.752 mmol, 492 mg | C(C1=CC=CC=C1)OC1=C(C=C2C=CC(=CC2=C1)OCCCNC(OC(C)(C)C)=O)C=1N=NC(=CC1)N(C1CC(NC(C1)(C)C)(C)C)C | C39H51N5O4
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | Et2O | CCOCC | C4H10O
catalyst | Pd/C | 0.075 mmol, 80 mg | [Pd] | Pd
product | tert-Butyl (3-((7-hydroxy-6-(6-(methyl(2,2,6,6-tetramethylpiperidin-4-yl)amino)pyridazin-3-yl)naphthalen-2-yl)oxy)propyl)carbamate | 386 mg, 91% yield | OC1=C(C=C2C=CC(=CC2=C1)OCCCNC(OC(C)(C)C)=O)C=1N=NC(=CC1)N(C1CC(NC(C1)(C)C)(C)C)C | C32H45N5O4
